### PR TITLE
[Merged by Bors] - feat: add some Multiset.Nodup lemmas

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Based on results from flt-regular.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Multiset/Nodup.lean [hunk 1]
```diff
@@ -137,6 +142,14 @@ theorem Nodup.map {f : α → β} {s : Multiset α} (hf : Injective f) : Nodup s
   Nodup.map_on fun _ _ _ _ h => hf h
 #align multiset.nodup.map Multiset.Nodup.map
 
+theorem nodup_map_iff_of_inj_on {f : α → β} (d : ∀ x ∈ s, ∀ y ∈ s, f x = f y → x = y) :
+    Nodup (map f s) ↔ Nodup s :=
+  ⟨Quot.induction_on s (fun _ ↦ List.Nodup.of_map _), fun h => h.map_on d⟩
+
+theorem nodup_map_iff_of_injective {f : α → β} (d : Function.Injective f) :
+    Nodup (map f s) ↔ Nodup s :=
+  ⟨Quot.induction_on s (fun _ ↦ List.Nodup.of_map _), fun h => h.map d⟩
```
Comment (alreadydone) [inline Mathlib/Data/Multiset/Nodup.lean:151]: There's [Multiset.Nodup.of_map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Multiset/Nodup.html#Multiset.Nodup.of_map) too.
And I wonder whether `∀ x ∈ s, ∀ y ∈ s, f x = f y → x = y` should be written as `Set.injOn f s` ...

Comment (erdOne) [reply Mathlib/Data/Multiset/Nodup.lean:151]: This was to match the signature of `Nodup.map_on` and `inj_on_of_nodup_map` etc. Maybe we should change all of them instead. But maybe in another PR?

File: Mathlib/Data/List/Nodup.lean [hunk 2]
```diff
@@ -182,6 +182,11 @@ theorem nodup_iff_count_le_one [DecidableEq α] {l : List α} : Nodup l ↔ ∀
       (not_congr this).trans not_lt
 #align list.nodup_iff_count_le_one List.nodup_iff_count_le_one
 
+theorem nodup_iff_count_eq_one [DecidableEq α] : Nodup l ↔ ∀ a ∈ l, count a l = 1 :=
+  nodup_iff_count_le_one.trans <| forall_congr' fun _ =>
+    ⟨fun H h => _root_.le_antisymm H (count_pos_iff_mem.mpr h),
```
Comment (alreadydone) [inline Mathlib/Data/List/Nodup.lean:187]:
```suggestion
    ⟨fun H h => H.antisymm (count_pos_iff_mem.mpr h),
```

File: Mathlib/Data/Multiset/Nodup.lean [hunk 3]
```diff
@@ -82,13 +82,18 @@ theorem nodup_iff_ne_cons_cons {s : Multiset α} : s.Nodup ↔ ∀ a t, s ≠ a
...
   Quot.induction_on s fun _l => by
     simp only [quot_mk_to_coe'', coe_nodup, mem_coe, coe_count]
-    apply List.nodup_iff_count_le_one
+    exact List.nodup_iff_count_le_one
 #align multiset.nodup_iff_count_le_one Multiset.nodup_iff_count_le_one
 
+theorem nodup_iff_count_eq_one [DecidableEq α] : Nodup s ↔ ∀ a ∈ s, count a s = 1 :=
+  Quot.induction_on s fun _l => by
+    simp only [quot_mk_to_coe'', coe_nodup, mem_coe, coe_count]
+    exact List.nodup_iff_count_eq_one
```
Comment (alreadydone) [inline Mathlib/Data/Multiset/Nodup.lean:91]:
```suggestion
  Quot.induction_on s fun _l => by simpa using List.nodup_iff_count_eq_one
```
if you want, or
```
  by rcases s; simp_rw [quot_mk_to_coe'', coe_count]; exact List.nodup_iff_count_eq_one
```
The actual non-defeq simp lemma used is `coe_count`, because [Multiset.countP](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Multiset/Basic.html#Multiset.countP) uses `Prop` but [List.countP](https://leanprover-community.github.io/mathlib4_docs/Std/Data/List/Basic.html#List.countP) uses `Bool`.

**Review by alreadydone — APPROVED** [review]

**Comment by alreadydone** [comment]
Thanks!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
